US04006248
A solution of 12.0 g. (0.379 mole) anhydrous methyl amine in 150 ml. benzene is treated dropwise with 34.8 g. (0.127 mole) α-bromo-p-benzoyl toluene in 300 ml. benzene for about 30 minutes. The resulting mixture is stirred for 4 hours at room temperature and the solvent removed in vacuo. The resulting residue is dissolved in ether and washed with water. The ether layer is then extracted three times with 2N hydrochloric acid and the acidic solution made basic by the addition of potassium hydroxide and extracted with ether. The ether layer is washed with water, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue is then chromatographed on silica gel to yield 4-benzoyl N-methyl benzyl amine (identified by spectral analysis).

reactant | methyl amine | 0.379 mole | CN | CH5N
reactant | α-bromo-p-benzoyl toluene | 0.127 mole | BrCC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C14H11BrO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzoyl N-methyl benzyl amine | C(C1=CC=CC=C1)(=O)C1=CC=C(CNC)C=C1 | C15H15NO
